US06489344B1
A mixture of 4-{2-[(2-aminoethyl)amino]-5-imidazolylpyrimidin-4-yl}benzenecarbonitrile (30 mg, 0.098 mmol), 3-nitrobenzoic acid (17 mg, 0.1 mmol), 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (EDC) (19 mg, 0.1 mmol), 1-hydroxybenzotriazole hydrate (HOBT) (14 mg, 0.1 mmol), and 4-dimethylaminopyridine (DMAP) (12 mg, 0.1 mmol) in DMA (500 uL) were stirred at room temperature. After 12 hours, the reaction was diluted with ethyl acetate (10 ml) and extracted with sat. aq. NaHCO3 (2×5 ml), water (3×5 ml), brine (5 ml), dried with Na2SO4, filtered, and concentrated. The resulting product, N-(2-{[4-(4-cyanophenyl)-5-imidazolylpyrimidin-2-yl]amino}ethyl)(3-nitrophenyl)carboxamide weighing 32 mg (70% yield) was approximately 95% pure by LCMS and HPLC.

reactant | 4-{2-[(2-aminoethyl)amino]-5-imidazolylpyrimidin-4-yl}benzenecarbonitrile | 0.098 mmol, 30 mg | NCCNC1=NC=C(C(=N1)C1=CC=C(C=C1)C#N)C=1NC=CN1 | C16H15N7
reactant | 3-nitrobenzoic acid | 0.1 mmol, 17 mg | [N+](=O)([O-])C=1C=C(C(=O)O)C=CC1 | C7H5NO4
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 0.1 mmol, 19 mg | Cl.CN(CCCN=C=NCC)C
reactant | 1-hydroxybenzotriazole hydrate | 0.1 mmol, 14 mg | O.ON1N=NC2=C1C=CC=C2
catalyst | 4-dimethylaminopyridine | 0.1 mmol, 12 mg | CN(C1=CC=NC=C1)C | C7H10N2
solvent | DMA | 500 uL | CC(=O)N(C)C | C4H9NO
solvent | ethyl acetate | 10 ml | C(C)(=O)OCC | C4H8O2
product | N-(2-{[4-(4-cyanophenyl)-5-imidazolylpyrimidin-2-yl]amino}ethyl)(3-nitrophenyl)carboxamide | 32 mg, 70% yield | C(#N)C1=CC=C(C=C1)C1=NC(=NC=C1C=1NC=CN1)NCCNC(=O)C1=CC(=CC=C1)[N+](=O)[O-] | C23H18N8O3
